US08957070B2
Ethyl 4-fluoro-1-(methoxymethyl)-7-nitro-1H-indole-2-carboxylate
A mixture of ethyl 4-fluoro-7-nitro-1H-indole-2-carboxylate (0.48 g), 60% sodium hydride (0.12 g) and N,N-dimethylformamide (20 mL) was stirred at 4° C. for 30 min. A solution (5 mL) of chloromethyl methyl ether (0.25 mL) in tetrahydrofuran was added dropwise under ice-cooling. After stirring at room temperature for 18 hr, the reaction solution was diluted with ethyl acetate, washed with aqueous citric acid solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:5) to give the title compound (0.46 g, yield 81%) as pale-brown needle crystals.

reactant | ethyl 4-fluoro-7-nitro-1H-indole-2-carboxylate | 0.48 g | FC1=C2C=C(NC2=C(C=C1)[N+](=O)[O-])C(=O)OCC | C11H9FN2O4
reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | chloromethyl methyl ether | 5 mL | COCCl | C2H5ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 4-fluoro-1-(methoxymethyl)-7-nitro-1H-indole-2-carboxylate | 0.46 g, yield 81% | FC1=C2C=C(N(C2=C(C=C1)[N+](=O)[O-])COC)C(=O)OCC | C13H13FN2O5
